Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization and stenting of the RCA ___
 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of 
hyperlipidemia who presented with chest pain.

Mr. ___ reports that symptoms began approximately 10 days 
prior to presentation when he noted left sided chest pressure 
with exertion. This lasted for ___ minutes and would resolve 
with rest. On ___, he noted that his symptoms began at rest. 
Again, he described this chest pressure as left sided, with some 
radiation to left arm and neck with no associated dyspnea, 
nausea or diaphoresis. He was evaluated ___ by his PCP with ___ 
reassuring ECG and basic blood tests (but troponin was not 
measured). He subsequently underwent ETT on ___ which 
demonstrated ___epression in I and aVL and ___levation in lead III at peak exercise. High sensitivity 
troponin was 580 (upper range of normal is 14). He was 
subsequently transferred from ___ for 
coronary angiography on ___ which demonstrated severe RCA 
disease and a DES was placed. Additionally mild LAD disease 
noted.

On arrival to the cardiology ward, Mr. ___ noted he is tired 
but overall feels ok. He denied ongoing chest pain or dyspnea. 
He noted that prior to the last 10 days, he had not experienced 
any chest pain. He has a known history of hyperlipidemia (LDL 
~140) but has not been taking pharmacologic agents for 
management. There is no family H/O CAD. He follows a vegan diet 
and exercises regularly. He has never smoked.
 
REVIEW OF SYSTEMS: 
Patient denied dyspnea, orthopnea, lower extremity edema, 
palpitations.
 
Past Medical History:
1. CAD RISK FACTORS  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
None
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
GENERAL: Well-developed, tired appearing young ___ Asian man
VS: ___ 2040 Temp: 97.0 PO BP: 112/78 HR: 81 RR: 16 O2 sat: 
97%
HEENT: oral mucosa moist
NECK: Supple with no appreciable JVD
CARDIAC: RRR, no murmurs appreciated
LUNGS: CTAB, no increased work of breathing noted
ABDOMEN: Soft, non-tender, not distended. No HSM.
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits. 
Radial site without significant edema, erythema or bleeding 
noted
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Pulses 
palpable and symmetric
 
Pertinent Results:
___ 08:10AM BLOOD WBC-7.7 RBC-4.90 Hgb-14.2 Hct-43.4 MCV-89 
MCH-29.0 MCHC-32.7 RDW-12.2 RDWSD-39.4 Plt ___

___ 08:10AM BLOOD Glucose-121* UreaN-8 Creat-0.7 Na-140 
K-4.2 Cl-105 HCO3-22 AnGap-13
___ 08:10AM BLOOD Calcium-9.4 Phos-3.2 Mg-1.9 Cholest-177
___ 08:10AM BLOOD Triglyc-121 HDL-38* CHOL/HD-4.7 
LDLcalc-115
___ 08:10AM BLOOD %HbA1c-5.2 eAG-103
___ 08:10AM BLOOD APOLIPOPROTEIN A (LITTLE A)-Test 81  H 
(reference range <75 nmol/L)

___ 08:10AM BLOOD CK-MB-7 cTropnT-0.68*

ECG ___ 20:07:22
Normal sinus rhythm. Normal ECG. No previous ECGs available

Cardiac catheterization ___
LV 138/13 mm Hg
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 20% stenosis in the 
proximal segment. The ___ Diagonal, arising from the proximal 
segment, is a medium caliber vessel. The ___ Diagonal, arising 
from the mid segment, is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 100% stenosis in the proximal 
and mid segments. The Right Ventricular, arising from the mid 
segment, is a medium caliber vessel. The Right Posterior 
Descending Artery, arising from the distal segment, is a medium 
caliber vessel. Collaterals from the distal segment of the LAD 
connect to the proximal segment. The Right Posterolateral 
Artery, arising from the distal segment, is a medium caliber 
vessel.
Percutaneous Coronary Intervention: 
Percutaneous coronary intervention (PCI) was performed on an ad 
hoc basis based on the coronary angiographic findings from the 
diagnostic portion of this procedure. Given his resting chest 
pain on the cath table, decision was made to attempt PCI of the 
RCA. Heparin was used for anticoagulation to maintain an ACT 
>250 throughout the case. He was loaded with Ticagrelor 180 mg 
at the beginning of the case. A 6 ___ JR4 guide provided 
adequate support. Crossed relatively easily with a Runthrough 
wire into the distal PDA. Dottered the vessel and then 
predilated with a 2.0 mm balloon with restauration of flow. 
Predilated with a 2.5 mm x 20 mm balloon. A 2.75 mm x 38 mm DES 
was deployed. The stent was post dilated again with a 2.75 mm NC 
balloon distally and then with a 3.0 mm NC balloon proximally. 
Final angiography revealed normal flow, no dissection and 0% 
residual stenosis. There was distal embolization of the proximal 
thrombus distally which improved throughout the procedure. He 
left the cath lab in stable condition, chest pain free
Findings
• Severe RCA disease (100%, sub-acute occlusion with rest pain 
on the table), now s/p DES. Mild LAD disease

Echocardiogram ___
The left atrial volume index is normal. There is no evidence for 
a right-to-left shunt with agitated saline at rest and with 
maneuvers. The estimated right atrial pressure is ___ mmHg. 
There is mild symmetric left ventricular hypertrophy with a 
normal cavity size. There is a small area of regional left 
ventricular systolic dysfunction(see schematic). Overall left 
ventricular systolic function is normal. Quantitative3D 
volumetric left ventricular ejection fraction is 60% (normal 
54-73%). Left ventricular cardiac index is low normal (2.0-2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. Transmitral and 
tissue Doppler suggests normal diastolic function, and a normal 
left ventricular filling pressure (PCWP less than 12 mmHg). 
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with a 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (?#) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is an eccentric, inferolateral directed 
jet of mild to moderate [___] mitral regurgitation. Due to the 
Coanda effect, the severity of mitral regurgitation could be 
UNDERestimated. The pulmonic valve leaflets are not well seen. 
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is no 
pericardial effusion.
IMPRESSION: Mild regional left ventricular systolic dysfunction 
consistent with known CAD with associated at least mild-moderate 
eccentric (posteriorly directed) mitral regurgitation. Overall 
normal LVEF. No bubbles seen at rest or with maneuvers (good 
quality study).
 
Brief Hospital Course:
___ man with a history of hyperlipidemia (LDL ~140) 
presented with approximately 2 weeks of chest pain on exercise 
and then rest pain. He was seen at his PCP's office with 
reportedly normal labs (though no troponin) and EKG. He 
underwent exercise stress test and developed anginal symptoms as 
well as ST depressions and an elevation in lead III. He went to 
___ where he was found to have a 
high-sensitivity troponin T of 580 consistent with a NSTEMI. He 
was then transferred to ___ for urgent cardiac 
catheterization. LVEDP was 13 mm Hg. He had a collateralized 
likely sub-acute total occlusion of the mid RCA treated with a 
2.75 x 35 mm Onyx DES. He was loaded with aspirin and ticagrelor 
and started on metoprolol and rosuvastatin. Peak CK-MB 7, 
troponin-T 0.68. Echocardiogram after PCI showed LVEF of 60% 
with inferior/inferolateral hypokinesis. Given low bleeding 
risk, the recommendation was for 30 months of dual anti-platelet 
therapy. The benefits of cardiac rehabilitation were reviewed 
with the patient, and he was provided with referral information 
and a prescription for outpatient cardiac rehabilitation. Lp(a) 
ultimately came back slightly elevated, and a referral to 
preventative cardiology and lipid screening of his children 
seems prudent given his lack of family history of coronary 
artery disease, healthy lifestyle including vegan diet, no 
smoking/alcohol use/drug use. Hemoglobin A1c was 5.2%.  Total 
cholesterol 177, triglycerides 121, HDL 38, LDL 115 (although 
these will be artifactually lowered in the setting of acute 
illness, such as NSTEMI).

TRANSITIONAL ISSUES:
[ ] Consider referral to preventative cardiologist for 
consideration of PCSK-9 inhibitor, fish oil, genetic 
screening/counseling
[ ] Patient was provided a prescription and referral information 
for outpatient cardiac rehabilitation
[ ] Consider 30 months of DAPT with ASA_ticagrelor given young 
patient with low bleeding risk. Non-bleeding side effect of 
dyspnea, need to avoid NSAIDs in CAD and avoid additional ASA 
while on ticagrelor reviewed with patient and wife. He should 
take only acetaminophen for analgesia and not high dose ASA and 
not NSAIDs.
[ ] Started post-MI on metoprolol succinate 50mg/day, 
rosuvastatin 40mg/day, ASA 81mg/day, ticagrelor 90mg BID  

# CODE:  Full code presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
Do not take more than one 81mg aspirin per day while taking 
ticagrelor   
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
if you require taking nitroglycerin, please call your doctor or 
return to the emergency department  
4.  Rosuvastatin Calcium 40 mg PO QPM  
5.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis  
6.  Multivitamins 1 TAB PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Non-ST segment elevation myocardial infarction
-Premature coronary artery disease with collateralized likely 
subacutely but totally occluded right coronary artery 
successfully treated with a drug-eluting stent
-Dyslipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
 Dear Mr. ___,  
 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were in the hospital because you were having chest pain 
and an abnormal stress test
 - This was concerning for a heart attack

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 -  You underwent a procedure called a cardiac catheterization 
and a stent was placed in one of the arteries of the heart
 -  You were started on medications that will help your heart 
recover and prevent further heart attacks

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Please avoid taking NSAIDs (ibuprofen, etc). If you have 
pain, please take tylenol
 - If you have chest pain requiring you to take nitroglycerin, 
please call your doctor or return to the hospital
 - Please do not take more than one 81mg aspirin per day while 
taking ticagrelor
 - please continue to take all of your medications as directed
 - please follow up with all the appointments scheduled with 
your doctor

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  
 
Followup Instructions:
___